US07112582B2
Step 7: (5R,6Z)-6-(6,7-dihydro-4H-pyrazolo[5,1-c][1,4]oxazin-2-ylmethylene)-7-oxo-4-thia-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylic acid
To a solution of 4-nitrobenzyl (5R)-6-[(acetyloxy)(6,7-dihydro-4H-pyrazolo[5,1-c][1,4]oxazin-2-yl)methyl]-6-bromo-7-oxo-4-thia-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate (0.35 g, 0.6 mmol) in THF (20 ml), under nitrogen, was added 20 ml of a phosphate buffer solution (0.5M, pH 6.5), and 120 mg of 10% Pd/C. The mixture was hydrogenated at 40–50 psi for 3 hr, and then filtered through Celite. The filter pad was washed with THF, and the filtrate was extracted with ethyl acetate. The organic extract was dried over anhydrous magnesium sulfate and evaporated. The residue was washed with ether to give; 0.09 g of a yellow solid; HRMS: calcd for C13H11N3O4S, 305.0470; found (ESI+), 306.05434; 1H NMR (DMSO-d6) δ 4.07–4.09 (t, 2H), 4.13–4.17 (t, 2H), 4.82 (s, 2H), 6.36 (s, 1H), 6.55 (s, 1H), 7.17 (s, 1H), 7.55 (s, 1H), 12.80 (bs, 1H).

reactant | 4-nitrobenzyl (5R)-6-[(acetyloxy)(6,7-dihydro-4H-pyrazolo[5,1-c][1,4]oxazin-2-yl)methyl]-6-bromo-7-oxo-4-thia-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate | 0.6 mmol, 0.35 g | C(C)(=O)OC(C1([C@H]2SC=C(N2C1=O)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])Br)C1=NN2C(COCC2)=C1 | C22H19BrN4O8S
reactant | phosphate | 0.5M, 20 ml, pH 6.5 | P(=O)([O-])([O-])[O-]
solvent | THF | 20 ml | C1CCOC1 | C4H8O
catalyst | Pd/C | 120 mg | [Pd] | Pd
product | (5R,6Z)-6-(6,7-dihydro-4H-pyrazolo[5,1-c][1,4]oxazin-2-ylmethylene)-7-oxo-4-thia-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylic acid | N1=C(C=C2COCCN21)\C=C\2/[C@H]1SC=C(N1C2=O)C(=O)O | C13H11N3O4S
